US08012966B2
2-(4-Bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one
The title compound was prepared under the same conditions as described in Example 13 with 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and 4-bromo-1,3-dihydro-indol-2-one (prepared according to US20030225127) as starting materials to give 2-(4-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one (44 mg, 74.4%) as a yellow solid.

reactant | 3-methyl-4-oxo-5-(2-pyrrolidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCC2)=O)C=O | C15H21N3O2
reactant | 4-bromo-1,3-dihydro-indol-2-one | BrC1=C2CC(NC2=CC=C1)=O | C8H6BrNO
product | 2-(4-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-5-(2-pyrrolidin-1-yl-ethyl)-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridin-4-one | 44 mg, 74.4% | BrC1=C2C(C(NC2=CC=C1)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCC1)=O)C | C23H25BrN4O2
